US07696231B2
4-[(4-{[2-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}phenyl)amino]-4-oxobutanoic acid
Into a suspension of methyl 4-[(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)amino]4-oxobutanoate (250 mg, 0.48 mmol) in THF/H2O (2/1) (10 mL) was added NaOH (1.0 N, 2.4 mL). The resulting solution was stirred at rt for 1.5 hr and quenched with HCl (5 N, 2 mL). A yellow solid precipitated out. Filtration, washing with water (2×5 mL) and drying under vacuo at 70° C. for 20 hrs gave the title compound as a yellow powder (83 mg, 34%) in 99.2% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 4-[(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)amino]4-oxobutanoate | 0.48 mmol, 250 mg | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C=C1)NC(CCC(=O)OC)=O | C20H17IN4O5
reactant | NaOH | 1.0 N, 2.4 mL | [OH-].[Na+]
solvent | THF H2O | 10 mL | C1CCOC1.O
product | 4-[(4-{[2-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}phenyl)amino]-4-oxobutanoic acid | 83 mg, 34% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C=C1)NC(CCC(=O)O)=O | C19H15IN4O5
